US05444080
To dry dimethylformamide (10 mL) under argon was added sodium hydride (0.14 g, 5.83 mmol) followed by diethyl malonate (0.92 g, 5.75 mmol) in dimethylformamide (2 mL) at 0° C. The mixture was stirred at ambient temperature for one hour. A solution of 5-chloromethyl-1-(2-chlorophenyl)methyl-2-propylthio-1H-imidazole hydrochloride (1.0 g, 2.84 mmol) in dimethylformamide (4 mL) was added over 5 minutes. The reaction mixture was stirred at 25° C. for 18 hours, then partitioned between water and methylene chloride. The organic layer was washed with water, dried, and concentrated. The crude product was flash chromatographed over silica gel with 1:1 hexane/ethyl acetate to give 0.62 g (49.7%) of diethyl [1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]methylmalonate as a pale yellow syrup.

reactant | sodium hydride | 5.83 mmol, 0.14 g | [H-].[Na+]
reactant | diethyl malonate | 5.75 mmol, 0.92 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-chloromethyl-1-(2-chlorophenyl)methyl-2-propylthio-1H-imidazole hydrochloride | 2.84 mmol, 1.0 g | Cl.ClCC1=CN=C(N1CC1=C(C=CC=C1)Cl)SCCC
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | diethyl [1-{(2-chlorophenyl)methyl}-2-propylthio-1H-imidazol-5-yl]methylmalonate | 0.62 g, 49.7% | ClC1=C(C=CC=C1)CN1C(=NC=C1CC(C(=O)OCC)C(=O)OCC)SCCC | C21H27ClN2O4S
